US08084490B2
Benzo[1,3]dioxole-2-carboxylic acid amide (5.44 g, 32.9 mmol) was dissolved in tetrahydrofuran (THF, 100 mL). Lithium aluminum hydride (LAH, 1M in THF, 39.5 mL, 39.5 mmol) was added slowly to the solution at room temperature. The reaction was stirred at room temperature for 24 hours. Distilled water was added to destroy the excess LAH. Aqueous sodium hydroxide (3.0 M, 100 mL) was added and the solution was extracted with ethyl acetate (3×100 mL). The combined organic solution was washed with water and dried over MgSO4. The solvent was evaporated to yield C-benzo[1,3]dioxol-2-yl-methylamine as a colorless oil.

reactant | Benzo[1,3]dioxole-2-carboxylic acid amide | 32.9 mmol, 5.44 g | O1C(OC2=C1C=CC=C2)C(=O)N | C8H7NO3
reactant | Lithium aluminum hydride | 39.5 mmol, 1M, 39.5 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | C-benzo[1,3]dioxol-2-yl-methylamine | O1C(OC2=C1C=CC=C2)CN | C8H9NO2
